US06002013
Methyl 3-amino-2-mercaptobenzoate
A solution of 1 g of methyl benzo-1,2,3-thiadiazole-7-carboxylate in 40 ml of dioxane is hydrogenated over 0.5 g of palladium-on-charcoal (5%) at 160° C. under an initial pressure of 150 bar. After the starting substance has reacted completely, the catalyst is filtered off and rinsed with dioxane, the filtrate is evaporated, avoiding contact with air, and the residue is purified over silica gel (hexane/ethyl acetate (6:4)). The title compound of melting point 174-175° C. is obtained by this procedure.

reactant | methyl benzo-1,2,3-thiadiazole-7-carboxylate | 1 g | S1N=NC2=C1C(=CC=C2)C(=O)OC | C8H6N2O2S
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | Methyl 3-amino-2-mercaptobenzoate | NC=1C(=C(C(=O)OC)C=CC1)S | C8H9NO2S
